US04222950
A. Preparation of Methyl Tri(3-pentyl)tin
To 16 g. (0.66 g. atom) of magnesium turnings maintained at a temperature of 25° C. under a nitrogen atmosphere was added a 25 cc. portion of a solution containing 99.7 g. (0.66 mole) of 3-bromopentane dissolved in 300 cc. of anhydrous tetrahydrofuran. The reaction was initiated using a few drops of ethylene dibromide. The remaining portion of the 3-bromopentane solution was gradually added during a period of one hour while the reaction mixture was heated to the boiling point. Heating was continued for an additional hour. The reaction mixture was then allowed to cool to ambient temperature, at which time all of the magnesium appeared to have reacted. The resultant solution contained 0.6 mole of 3-pentyl magnesium bromide, and was added dropwise to a stirred solution of methyltin trichloride (49 g., 0.2 mole) dissolved in 50 cc. of dry benzene. The addition required 0.5 hour and was conducted under a nitrogen atmosphere. During the addition the temperature of the reaction mixture rose to 71° C. Following completion of the addition the reaction mixture was heated to the boiling point for one hour, then allowed to cool to ambient temperature. To the resultant mixture was added a solution containing 250 cc. water and 15 cc. concentrated sulfuric acid over a five minute period. The aqueous phase was separated and the residual was removed by combining the organic phase with a portion of anhydrous magnesium sulfate, which was subsequently removed by filtration. The solvent was evaporated under reduced pressure to yield 58.8 g. (85% yield) of a yellow liquid exhibiting a refractive index (nD25) of 1.4954. This product was extracted twice with methanol and distilled under reduced pressure. The fraction boiling from 81° to 87° C. under a pressure of 0.15 mm. was isolated and exhibited a refractive index (nD22) of 1.4920. Analysis by vapor phase chromatography indicated that the product was 95.7% pure.

reactant | magnesium | 0.66 g | [Mg] | Mg
reactant | 3-bromopentane | 0.66 mole | BrC(CC)CC | C5H11Br
reactant | 3-pentyl magnesium bromide | 0.6 mole | CCC(CC)[Mg]Br
reactant | methyltin trichloride | 0.2 mole, 49 g | C[Sn](Cl)(Cl)Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | ethylene dibromide | a few drops | C(CBr)Br | C2H4Br2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl Tri(3-pentyl)tin | 85% yield | C[Sn](C(CC)CC)(C(CC)CC)C(CC)CC | InChI=1S/3C5H11.CH3.Sn/c3*1-3-5-4-2;;/h3*5H,3-4H2,1-2H3;1H3;
